US05036068
A solution of 1 g of 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-2H-1,3-benzoxazine in 15 ml of formic acid and 1 ml of pyridine is boiled for 16 hours and evaporated. Customary work-up gives 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-formamido-2H-1,3-benzoxazine.

reactant | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-2H-1,3-benzoxazine | 1 g | CC1(OC2=C(C(=N1)N1C(C=CC=C1)=O)C=C(C=C2)N)C | C15H15N3O2
reactant | formic acid | 15 ml | C(=O)O | CH2O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-formamido-2H-1,3-benzoxazine | CC1(OC2=C(C(=N1)N1C(C=CC=C1)=O)C=C(C=C2)NC=O)C | C16H15N3O3
